US06528525B1
2-(4-Methoxyphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification.No. 8-35 compound)
In a similar manner to that described in Example 2, ethyl 2-(4-methoxyphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (310 mg), which is the product of Example 124, was reacted with aqueous sodium hydroxide solution (1N, 2.00 ml) and the reaction mixture was treated to give the title compound (150 mg) as a white powder.

reactant | ethyl 2-(4-methoxyphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 310 mg | COC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C32H32N2O6
reactant | sodium hydroxide | 1N, 2.00 ml | [OH-].[Na+]
product | 2-(4-Methoxyphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 150 mg | COC1=CC=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C30H28N2O6
